US06313151B1
A. 3-(4-methoxybenzoyl)amino-2-indolecarboxylic acid ethyl ester
To a solution of 3-amino-2-indolecarboxylic acid ethyl ester (500 mg, 2.45 mmol) and triethylamine (272 mg, 2.70 mmol) in methylene chloride (5 mL) was added anisoyl chloride (418 mg, 2.45 mmol). The resulting mixture was stirred for 18 h at room temperature. The reaction mixture was diluted with ethyl acetate and washed with water. The organic phase was washed with 1 N aqueous hydrochloric acid, dried (sodium sulfate), filtered, and concentrated in vacuo to provide a yellow solid. Recrystallization from hexane/ethyl acetate provided 780 mg (94%) of the title compound as a yellow solid.

reactant | 3-amino-2-indolecarboxylic acid ethyl ester | 2.45 mmol, 500 mg | C(C)OC(=O)C=1NC2=CC=CC=C2C1N | C11H12N2O2
reactant | triethylamine | 2.70 mmol, 272 mg | C(C)N(CC)CC | C6H15N
reactant | anisoyl chloride | 2.45 mmol, 418 mg | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-methoxybenzoyl)amino-2-indolecarboxylic acid ethyl ester | 780 mg, 94% | C(C)OC(=O)C=1NC2=CC=CC=C2C1NC(C1=CC=C(C=C1)OC)=O | C19H18N2O4
